US06469036B1
Acetyl chloride (3.3 mL, 46 mmol) was added dropwise to a solution of trans-4-benzyloxy-L-proline hydrochloride (H-Hyp(OBzl)-OMe.HCl; 12.5 g, 46 mmol), triethylamine (6.4 mL, 46 mmol) in pyridine (150 mL) at 0° C. while stirring under argon. The reaction mixture was stirred for 30 min at 0° C. then slowly warmed to room temperature over 16 h. The reaction mixture was concentrated in vacuo, diluted with CH2Cl2, washed with 1 N aqueous HCl (3×), 10% aqueous Na2CO3, saturated aqueous NaHCO3, brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with ethyl acetate/hexane (3:2) to give Ac-Hyp(OBzl)-OMe as an oil.

reactant | Acetyl chloride | 46 mmol, 3.3 mL | C(C)(=O)Cl | C2H3ClO
reactant | trans-4-benzyloxy-L-proline hydrochloride | 46 mmol, 12.5 g | Cl.C(C1=CC=CC=C1)O[C@@H]1C[C@H](NC1)C(=O)O
reactant | triethylamine | 46 mmol, 6.4 mL | C(C)N(CC)CC | C6H15N
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | Ac-Hyp(OBzl)-OMe | N1([C@H](C(=O)OC)C[C@@H](OCC2=CC=CC=C2)C1)C(=O)C | C15H19NO4
